US04904680
Synthesis of N-(α-methylbenzyl)-2-(2,6-dichlorobenzoylamino)acetamide (Compound No. 74)
1.05 g of isobutyl chloroformate was slowly dropped at -20° C. under a nitrogen stream onto a solution of 1.74 g of N-(2,6-dichlorobenzoyl)glycine and 0.71 g of triethylamine in 30 ml of anhydrous tetrahydrofuran, and the reaction solution was stirred for 20 minutes. Then, 0.84 g of α-phenylethylamine was added to the solution, which was subsequently stirred for 30 minutes keeping the reaction temperature within the range from -10° C. to -20° C. The reaction solution was then extracted with 60 ml of ethyl acetate. The extract was washed with a 10% w/v aqueous solution of sodium hydroxide, then with 1N aqueous hydrochloric acid, and finally with a saturated aqueous solution of sodium chloride, and was then dried over anhydrous sodium sulfate. The reaction solution was concentrated by evaporation under reduced pressure, and the resulting residue was subjected to silica gel column chromatography for purification to give 1.58 g (yield 67%) of the title product melting at 155° C.

reactant | isobutyl chloroformate | 1.05 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-(2,6-dichlorobenzoyl)glycine | 1.74 g | ClC1=C(C(=O)NCC(=O)O)C(=CC=C1)Cl | C9H7Cl2NO3
reactant | triethylamine | 0.71 g | C(C)N(CC)CC | C6H15N
reactant | α-phenylethylamine | 0.84 g | C1(=CC=CC=C1)C(C)N | C8H11N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-(α-methylbenzyl)-2-(2,6-dichlorobenzoylamino)acetamide | 1.58 g, yield 67% | CC(C1=CC=CC=C1)NC(CNC(C1=C(C=CC=C1Cl)Cl)=O)=O | C17H16Cl2N2O2
